US07115595B2
tert-Butyl 3-{[(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl) silyl]oxy}-ethyl)-4-oxo-2-azetidinyl]acetyl}benzoate (2.24 g) and triethylamine (1.11 g) were dissolved in dry methylene chloride (10 ml), and thereto was added dropwise a solution of [(2-chloro-2-oxoacetyl)oxy]methyl pivalate (10 mmol) in dry methylene chloride (10 ml) under ice-cooling. The reaction was quenched by addition of saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, and separated. The organic layer was washed successively with an aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl 3-({(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl) silyl]oxy}ethyl)-1-[{[(2,2-dimethylpropanoyl)oxy]methoxy}(oxo)acetyl]-4-oxo-2-azetidinyl}acetyl)benzoate (3.152 g).

reactant | tert-Butyl 3-{[(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl) silyl]oxy}-ethyl)-4-oxo-2-azetidinyl]acetyl}benzoate | 2.24 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H](NC1=O)CC(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C24H37NO5Si
reactant | triethylamine | 1.11 g | C(C)N(CC)CC | C6H15N
reactant | [(2-chloro-2-oxoacetyl)oxy]methyl pivalate | 10 mmol | C(C(C)(C)C)(=O)OCOC(C(=O)Cl)=O | C8H11ClO5
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-({(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl) silyl]oxy}ethyl)-1-[{[(2,2-dimethylpropanoyl)oxy]methoxy}(oxo)acetyl]-4-oxo-2-azetidinyl}acetyl)benzoate | 3.152 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H](N(C1=O)C(C(=O)OCOC(C(C)(C)C)=O)=O)CC(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C32H47NO10Si
